US07994209B2
(S)-3-[(S)-1-(2,3-Dichlorophenoxy)-3-methylbutyl]pyrrolidine
(S)-3-((S)-1-Hydroxy-3-methylbutyl)pyrrolidine-1-carboxylic acid t-butyl ester (50 mg, 0.2 mmol) was dissolved in DMF (940 μL, 12 mmol). Sodium hydride (5.6 mg, 233 μmmol) was then slowly added, and the mixture was stirred at room temperature for 15 minutes. 1,2-Dichloro-3-fluoro-benzene (64.1 mg, 388 μmmol) was added. The mixture was stirred at 70° C. for 3 hours, then concentrated under vacuum. 1.2M HCl in EtOH (1.1 mL, 1.3 mmol) was added, and the mixture was stirred overnight. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (37.4 mg, 100% purity). MS m/z: [M+H]+ calcd for C15H21Cl2NO, 302.10; found 302.2.

reactant | (S)-3-((S)-1-Hydroxy-3-methylbutyl)pyrrolidine-1-carboxylic acid t-butyl ester | 0.2 mmol, 50 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CC(C)C)O | C14H27NO3
reactant | DMF | 12 mmol, 940 μL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | 5.6 mg | [H-].[Na+]
reactant | 1,2-Dichloro-3-fluoro-benzene | 64.1 mg | ClC1=C(C(=CC=C1)F)Cl | C6H3Cl2F
reactant | HCl | 1.2M | Cl | ClH
reactant | EtOH | 1.3 mmol, 1.1 mL | CCO | C2H6O
product | (S)-3-[(S)-1-(2,3-Dichlorophenoxy)-3-methylbutyl]pyrrolidine | ClC1=C(O[C@@H](CC(C)C)[C@@H]2CNCC2)C=CC=C1Cl | C15H21Cl2NO
